US07008940B1
2,3-Dihydro-5-hydroxy-2,2,6,7-tetramethyl-1H-indole-1-carbaldehyde
To a solution of 65% potassium nitrosodisulfonate (14.4 g, 34.9 mmol) in pH 6.86 phosphate buffer (460 mL) was added a solution of 2,3-dihydro-2,2,6,7-tetramethyl-1H-indole (2.91 g, 14.6 mmol) in methanol (80 mL), and the mixture was stirred at room temperature for 15 minutes. The reaction mixture was extracted with ethyl acetate three times, and the combined organic layers were washed with water. This solution was mixed with a solution of sodium hydrosulfite (6.36 g, 36.5 mmol) in water (75 mL), the mixture was shaken, and the aqueous layer was separated. The organic layer was washed with saturated brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was dissolved in formic acid (5 mL), a solution of acetic anhydride (3.2 mL, 34 mmol) in formic acid (5 mL) (which had been stirred at room temperature for 20 minutes in advance) was added dropwise, and the mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated under reduce pressure, neutralized with an aqueous saturated solution of sodium bicarbonate, and extracted with chloroform three times. The combined organic layers were washed with water, and concentrated under reduced pressure. The residue was dissolved in methanol (30 mL) and chloroform (15 mL), a 1N aqueous solution of sodium hydroxide was added under ice-cooling. and the mixture was stirred at the same temperature for 10 minutes. The reaction mixture was neutralized with 1N hydrochloric acid, and the mixture was extracted with chloroform three times. The combined organic layers were washed with water and saturated brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was recrystallized from ethanol-diisopropyl ether to obtain 1.48 g of the title compound.

reactant | potassium nitrosodisulfonate | 34.9 mmol, 14.4 g | N([O])(S(=O)(=O)[O-])S(=O)(=O)[O-].[K+].[K+]
reactant | 2,3-dihydro-2,2,6,7-tetramethyl-1H-indole | 14.6 mmol, 2.91 g | CC1(NC2=C(C(=CC=C2C1)C)C)C | C12H17N
reactant | sodium hydrosulfite | 36.5 mmol, 6.36 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | acetic anhydride | 34 mmol, 3.2 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | phosphate | 460 mL, pH 6.86 | P(=O)([O-])([O-])[O-]
solvent | methanol | 80 mL | CO | CH4O
solvent | water | 75 mL | O | H2O
solvent | formic acid | 5 mL | C(=O)O | CH2O2
product | 2,3-Dihydro-5-hydroxy-2,2,6,7-tetramethyl-1H-indole-1-carbaldehyde | 1.48 g, Yield 41% | OC=1C=C2CC(N(C2=C(C1C)C)C=O)(C)C | C13H17NO2
